US07517873B2
To an ice cooled solution of 9.56 g (0.045 mole) of (rac)-2-cyclopentylamino-cyclopentanecarboxylic acid, methyl ester and 200 mL of ethyl acetate was added 9.5 g (0.0475 mole) of 2,4-dichloro-5-nitro-pyrimidine and 9.6 g (0.113 mole) of sodium bicarbonate. The mixture was heated overnight at 65 degrees, then cooled and washed with water, extracting the aqueous layer twice with ethyl acetate. The combined ethyl acetate layers were washed successively with water, then brine, dried over anhydrous magnesium sulfate, filtered and concentrated under reduced pressure. The residue was purified by silica gel chromography, eluting with hexanes-ethyl acetate (100:0-80:20), to give 11.4 g of (rac)-2-[(2-chloro-5-nitro-pyrimidin-4-yl)-cyclopentyl-amino]-cyclopentanecarboxylic acid methyl ester (IV-68).

reactant | (rac)-2-cyclopentylamino-cyclopentanecarboxylic acid, methyl ester | 0.045 mole, 9.56 g | C1(CCCC1)NC1C(CCC1)C(=O)OC | C12H21NO2
reactant | 2,4-dichloro-5-nitro-pyrimidine | 0.0475 mole, 9.5 g | ClC1=NC=C(C(=N1)Cl)[N+](=O)[O-] | C4HCl2N3O2
reactant | sodium bicarbonate | 0.113 mole, 9.6 g | C([O-])(O)=O.[Na+]
solvent | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
product | (rac)-2-[(2-chloro-5-nitro-pyrimidin-4-yl)-cyclopentyl-amino]-cyclopentanecarboxylic acid methyl ester | 11.4 g | COC(=O)C1C(CCC1)N(C1CCCC1)C1=NC(=NC=C1[N+](=O)[O-])Cl | C16H21ClN4O4
